US04165378
A suspension of amidinothiourea (16.8 g.) in acetone (75 ml.) was treated with 1,3-dichloroacetone (18 g.) in acetone (60 ml.). There was a slight exotherm and the crystalline suspension gradually changed to a fine white solid. After stirring overnight at room temperature the solid was filtered off and washed with acetone. Crystallization from ethanol gave 2-guanidino-4-chloromethylthiazole hydrochloride, m.p. 191°-193° C.

reactant | amidinothiourea | 16.8 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | 1,3-dichloroacetone | 18 g | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-guanidino-4-chloromethylthiazole hydrochloride | Cl.N(C(=N)N)C=1SC=C(N1)CCl | InChI=1S/C5H7ClN4S.ClH/c6-1-3-2-11-5(9-3)10-4(7)8;/h2H,1H2,(H4,7,8,9,10);1H
